US07060827B2
In a like manner to the preparation of N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3-hydroxyphenyl)-2,4-pyrimidinediamine, 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine and 3,4,5-trimethoxyaniline were reacted to produce N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3,4,5-trimethoxyphenyl)-2,4-pyrimidinediamine 1H NMR (DMSO-d6): δ 8.08 (d, 1H, J=4.8 Hz), 7.29 (d, 1H, J=2.4 Hz), 7.15 (dd, 1H, J=3.0 and 9.0 Hz), 6.91 (s, 1H), 6.76 (d, 1H, J=8.7 Hz), 4.20 (s, 4H), 3.61 (s, 6H), 3.59 (s, 3H); LCMS: purity: 97%; MS (m/e): 429(MH+).

reactant | 2-chloro-N4-(3,4-ethylenedioxyphenyl)-5-fluoro-4-pyrimidineamine | ClC1=NC=C(C(=N1)NC1=CC2=C(C=C1)OCCO2)F | C12H9ClFN3O2
reactant | 3,4,5-trimethoxyaniline | COC=1C=C(N)C=C(C1OC)OC | C9H13NO3
product | N4-(3,4-ethylenedioxyphenyl)-5-fluoro-N2-(3,4,5-trimethoxyphenyl)-2,4-pyrimidinediamine | C1OC=2C=C(C=CC2OC1)NC1=NC(=NC=C1F)NC1=CC(=C(C(=C1)OC)OC)OC | C21H21FN4O5
